US07662771B2
Add aluminum(III) chloride (6.67 g, 50 mmol) portionwise to a solution of 7-[5-(5-chloro-2-isopropoxyphenyl)thiazol-2-yl]heptanoic acid methyl ester (9.90 g, 25 mmol) in methylene chloride (300 mL) at 0° C. under nitrogen. Slowly warm the mixture to room temperature and stir for an additional 30 minutes. Cool the mixture to 0° C., treat with saturated aqueous sodium sulfate Na2SO4 (150 ml), and stir for 1 hour. Remove the solvent under reduced pressure, dilute the residue with ethyl acetate (300 mL), wash with water (100 mL) and brine (100 mL), and dry over sodium sulfate. Remove the solvent under reduced pressure and purify the residue by flash column chromatography on silica gel, eluting with ethyl acetate/hexanes (1:9 to 1:1), to afford 7-[5-(5-chloro-2-hydroxyphenyl)thiazol-2-yl]heptanoic acid methyl ester (5.67 g, 64%).

reactant | aluminum(III) chloride | 50 mmol, 6.67 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 7-[5-(5-chloro-2-isopropoxyphenyl)thiazol-2-yl]heptanoic acid methyl ester | 25 mmol, 9.90 g | COC(CCCCCCC=1SC(=CN1)C1=C(C=CC(=C1)Cl)OC(C)C)=O | C20H26ClNO3S
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 7-[5-(5-chloro-2-hydroxyphenyl)thiazol-2-yl]heptanoic acid methyl ester | 5.67 g, 64% | COC(CCCCCCC=1SC(=CN1)C1=C(C=CC(=C1)Cl)O)=O | C17H20ClNO3S
